US05668140
Preparation of the starting compound 4-chloro-5-methoxy-6-methoxymethylpyrimidine
85.0 g (0.5 mol) of 4-hydroxy-5-methoxy-6-methoxymethylpyrimidine were suspended in 600 ml of dichloroethane, 50.5 g of triethylamine were added, and 260 g (1.7 mol) of phosphorus oxychloride were then added without cooling. The mixture was stirred for 3 hours at 80° C., poured into ice-water and neutralized by adding solid sodium carbonate, the organic phase was separated, and the water phase was extracted several times by stirring with methylene chloride. The combined organic phases were dried and concentrated. The residue was distilled under a water pump vacuum. 66.1 g (70% of theory) of a yellow oil were obtained. B.p. 93°-96° C./0.1mm.

reactant | 4-hydroxy-5-methoxy-6-methoxymethylpyrimidine | 0.5 mol, 85.0 g | OC1=NC=NC(=C1OC)COC | C7H10N2O3
reactant | triethylamine | 50.5 g | C(C)N(CC)CC | C6H15N
reactant | phosphorus oxychloride | 1.7 mol, 260 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloroethane | 600 ml | ClC(C)Cl | C2H4Cl2
product | 4-chloro-5-methoxy-6-methoxymethylpyrimidine | ClC1=NC=NC(=C1OC)COC | C7H9ClN2O2
